US07084160B2
A solution of 3-butenal diethyl acetal (144 mg, 1 mmol) and 9-BBN (0.5 M in THF, 2.2 mL, 1.1 mmol) was stirred at RT for 1 h. The mixture was concentrated and to the residue were added benzene (2 mL), EtOH (1 mL), aqueous Na2CO3 solution (2M, 1 mL), 3-bromo-4-fluoro-N-cyclopropylbenzamide (127 mg, 0.5 mmol) and Pd(Ph3P)4 (40 mg). The resulting mixture was stirred at 80° C. for 2 h. The mixture was then cooled to RT and diluted with ethyl acetate (10 mL) and washed with water. The organic layer was separated and concentrated. The residue was purified by column chromatography (SiO2; EtOAc/hexane 1:3) to afford N-cyclopropyl-3-(4,4-diethoxybutyl)-4-fluorobenzamide (151 mg, 93%). This material was dissolved in acetone (1 mL) and 3 N HCl solution (0.2 mL) and stirred at RT for 1 h. The mixture was neutralized with NaHCO3 solution and extracted with ethyl acetate (3×5 mL). The organic layer was dried and concentrated to afford N-cyclopropyl-4-fluoro-3-(4-oxo-butyl)-benzamide (110 mg, 94%).

reactant | 3-butenal diethyl acetal | 1 mmol, 144 mg | C(C)OC(CC=C)OCC | C8H16O2
reactant | 9-BBN | 1.1 mmol, 0.5 M, 2.2 mL | B1C2CCCC1CCC2 | C8H15B
reactant | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-bromo-4-fluoro-N-cyclopropylbenzamide | 0.5 mmol, 127 mg | BrC=1C=C(C(=O)NC2CC2)C=CC1F | C10H9BrFNO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)4 | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
product | N-cyclopropyl-3-(4,4-diethoxybutyl)-4-fluorobenzamide | 151 mg, 93% | C1(CC1)NC(C1=CC(=C(C=C1)F)CCCC(OCC)OCC)=O | C18H26FNO3
